US06555577B1
To a solution of 3,5-dihydroxybenzaldehyde (2.0 g, 14.5 mmol) in DMF (35 mL) was added potassium carbonate (11.0 g, 80.0 mmol) and 1,1,1-trifluoro-2-iodoethane (33.3 g, 160 mmol). The reaction mixture was heated I a sealed reactor at 50° C. for 7 days. The mixture was filtered and washed with ethyl acetate. The filtrate was added water and the organic phase isolated. The aqueous phase was extracted once more with ethyl acetated. The combined organic phases were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography eluting with toluene to give 906 mg (18%) of 3,5-bis-(2,2,2-trifluoro-ethoxy)-benzaldehyde. 1H NMR (CDCl3, 300 MHz) δ: 4.43 (q, 4H), 6.85 (t, 1H), 7.15 (d, 2H), 9.95 (s, 1H).

reactant | 3,5-dihydroxybenzaldehyde | 14.5 mmol, 2.0 g | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | potassium carbonate | 80.0 mmol, 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1-trifluoro-2-iodoethane | 160 mmol, 33.3 g | FC(CI)(F)F | C2H2F3I
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 3,5-bis-(2,2,2-trifluoro-ethoxy)-benzaldehyde | 906 mg, 18% | FC(COC=1C=C(C=O)C=C(C1)OCC(F)(F)F)(F)F | C11H8F6O3
